US08791119B2
To a solution of 51.6 g (254 mmol) of 5-chloro-4-phenyl-1H-pyrrole-3-carbonitrile in 400 ml of acetonitrile are added 20.4 g (509 mmol) of finely ground sodium hydroxide and 3.46 g (10.2 mmol) of tetrabutylammonium hydrogen sulfate, and the mixture is stirred vigorously for a few minutes, followed by adding 68.5 g (255 mmol) of tert-butyl(2-bromo-ethyl)carbamate (CAS 39684-80-5), and the mixture is then stirred for 4 hours at reflux. [After cooling, the solvent is evaporated off under reduced pressure, the residue is taken up in water and the product is extracted with ethyl acetate.] The organic phase is then dried over sodium sulfate and the solvent is evaporated off under reduced pressure to give 67.9 g of tert-butyl{2-[2-chloro-4-cyano-3-phenyl-1H-pyrrol-1-yl]ethyl}carbamate in the form of a white powder after recrystallizing from acetonitrile, filtering off and drying.

reactant | 5-chloro-4-phenyl-1H-pyrrole-3-carbonitrile | 254 mmol, 51.6 g | ClC1=C(C(=CN1)C#N)C1=CC=CC=C1 | C11H7ClN2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | tert-butyl(2-bromo-ethyl)carbamate | 255 mmol, 68.5 g | C(C)(C)(C)OC(NCCBr)=O | C7H14BrNO2
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
catalyst | tetrabutylammonium hydrogen sulfate | 10.2 mmol, 3.46 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | tert-butyl{2-[2-chloro-4-cyano-3-phenyl-1H-pyrrol-1-yl]ethyl}carbamate | 67.9 g | C(C)(C)(C)OC(NCCN1C(=C(C(=C1)C#N)C1=CC=CC=C1)Cl)=O | C18H20ClN3O2
